### PR TITLE
[Merged by Bors] - feat: `ENNReal`-valued conjugate exponents

### PR DESCRIPTION
**Pull request by YaelDillies**
Define `ENNReal.IsConjExponent`, the `ENNReal` analogue of `Real.IsConjExponent` and `NNReal.IsConjExponent`. This will allow stating Hölder's inequality for the L1 and Linfty norms too.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/ConjExponents.lean [hunk 1]
```diff
@@ -220,3 +220,110 @@ protected lemma Real.IsConjExponent.toNNReal {p q : ℝ} (hpq : p.IsConjExponent
...
+      rw [ENNReal.add_div, ENNReal.div_self ((tsub_pos_of_lt hp₁).ne') (sub_ne_top hp), one_div]
+    _ = (1 - p⁻¹)⁻¹ := by
+      rw [tsub_add_cancel_of_le, ← inv_eq_iff_eq_inv, div_eq_mul_inv, ENNReal.mul_inv, inv_inv,
+        ENNReal.mul_sub, ENNReal.inv_mul_cancel, mul_one] <;> simp [*]
+
+section
+include h
+
+@[symm]
+protected lemma symm : q.IsConjExponent p where
```
Comment (eric-wieser) [inline Mathlib/Data/Real/ConjExponents.lean:275]: Can you add the `comm` lemma too?

File: Mathlib/Data/Real/ConjExponents.lean
Comment (eric-wieser) [inline Mathlib/Data/Real/ConjExponents.lean:1]: Please add the `ENNReal` version to the module docstring

File: Mathlib/Data/Real/ConjExponents.lean [hunk 2]
```diff
@@ -220,3 +224,112 @@ protected lemma Real.IsConjExponent.toNNReal {p q : ℝ} (hpq : p.IsConjExponent
...
+
+/-- Two nonnegative real exponents `p, q` are conjugate if they are `> 1` and satisfy the equality
+`1/p + 1/q = 1`. This condition shows up in many theorems in analysis, notably related to `L^p`
+norms. -/
+@[mk_iff]
+structure IsConjExponent (p q : ℝ≥0∞) : Prop where
+  inv_add_inv_conj : p⁻¹ + q⁻¹ = 1
+
+/-- The conjugate exponent of `p` is `q = p/(p - 1)`, so that `1/p + 1/q = 1`. -/
+noncomputable def conjExponent (p : ℝ≥0∞) : ℝ≥0∞ := 1 + (p - 1)⁻¹
```
Comment (eric-wieser) [inline Mathlib/Data/Real/ConjExponents.lean:238]: Can you add a lemma about how this interacts with the coercion from `NNReal`?

File: Mathlib/Data/Real/ConjExponents.lean [hunk 3]
```diff
@@ -220,3 +226,120 @@ protected lemma Real.IsConjExponent.toNNReal {p q : ℝ} (hpq : p.IsConjExponent
   one_lt := by simpa using hpq.one_lt
   inv_add_inv_conj := by rw [← toNNReal_inv, ← toNNReal_inv, ← toNNReal_add hpq.inv_nonneg
     hpq.symm.inv_nonneg, hpq.inv_add_inv_conj, toNNReal_one]
+
+namespace ENNReal
+
+/-- Two nonnegative real exponents `p, q` are conjugate if they are `> 1` and satisfy the equality
```
Comment (b-mehta) [inline Mathlib/Data/Real/ConjExponents.lean:232]:
```suggestion
/-- Two nonnegative real exponents `p, q` are conjugate and satisfy the equality
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 4]
```diff
@@ -220,3 +226,120 @@ protected lemma Real.IsConjExponent.toNNReal {p q : ℝ} (hpq : p.IsConjExponent
...
+`1/p + 1/q = 1`. This condition shows up in many theorems in analysis, notably related to `L^p`
+norms. -/
```
Comment (b-mehta) [inline Mathlib/Data/Real/ConjExponents.lean:234]:
```suggestion
norms. Note that we permit one of the exponents to be `∞` and the other `1`. -/
```

File: Mathlib/Data/Real/ConjExponents.lean [hunk 5]
```diff
@@ -220,3 +226,120 @@ protected lemma Real.IsConjExponent.toNNReal {p q : ℝ} (hpq : p.IsConjExponent
...
+@[mk_iff]
+structure IsConjExponent (p q : ℝ≥0∞) : Prop where
+  inv_add_inv_conj : p⁻¹ + q⁻¹ = 1
+
+/-- The conjugate exponent of `p` is `q = p/(p - 1)`, so that `1/p + 1/q = 1`. -/
```
Comment (b-mehta) [inline Mathlib/Data/Real/ConjExponents.lean:239]:
```suggestion
/-- The conjugate exponent of `p` is `q = 1 + (p - 1)⁻¹`, so that `1/p + 1/q = 1`. -/
```
I'd prefer to have the docstring and the definition line up here - this isn't a case where the actual definition is sufficiently complicated that lying is better. I'm guessing that p/(p-1) doesn't work as the definition because of ENNReal arithmetic being weird?

**Review by b-mehta — APPROVED** [review]
lgtm, doc comments only

File: Mathlib/Data/Real/ConjExponents.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Data/Real/ConjExponents.lean:239]: Yep indeed. ENNReal arithmetic is weird: Try inputting ` p = infty`

**Comment by b-mehta** [comment]
Thanks!

bors merge
